US05185352
2-Hydroxymethyl-5-octadecyloxy-1-phenyl-4(1H)-pyridone
5.0 g (12 mMole) 2-hydroxymethyl-5-octadecyloxy-4-pyranone are suspended in 90 mL water and 2 mL concentrated hydrochloric acid and mixed with 4.0 g (43 mMole) aniline. The mixture is heated under reflux for 24 hours, cooled and the precipitate formed is separated from the aqueous solution and recrystallized from ethyl acetate, an almost colorless product being obtained; m.p. 67°-72° C.

reactant | 2-hydroxymethyl-5-octadecyloxy-4-pyranone | 12 mMole, 5.0 g | OCC=1OC=C(C(C1)=O)OCCCCCCCCCCCCCCCCCC | C24H42O4
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | aniline | 43 mMole, 4.0 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 90 mL | O | H2O
product | 2-Hydroxymethyl-5-octadecyloxy-1-phenyl-4(1H)-pyridone | OCC=1N(C=C(C(C1)=O)OCCCCCCCCCCCCCCCCCC)C1=CC=CC=C1 | C30H47NO3
